US07598423B2
Synthesis of 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-amino-methyl}-benzonitrile
A mixture of 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-azido-methyl}-benzonitrile (1.77 g, 4.02 mmol), triphenylphosphine (1.16 g, 4.42 mmol), water (0.5 mL) and tetrahydrofuran (25 mL) is stirred 18 hr. The mixture is concentrated, diluted with water (100 mL) and extracted to ethyl acetate (3×50 mL). The combined extracts are dried over sodium sulfate, filtered, and concentrated to a bright yellow residue. The compound is used without further purification. LCMS M−1 413.

reactant | 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-azido-methyl}-benzonitrile | 4.02 mmol, 1.77 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)N=[N+]=[N-])C=C1)CCC)O | C26H24N4O3
reactant | triphenylphosphine | 4.42 mmol, 1.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 0.5 mL | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-amino-methyl}-benzonitrile | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)N)C=C1)CCC)O | C26H26N2O3
